US06613905B1
To a solution of methyltriphenylphosphonium bromide (2.2 g) in THF (20 ml) was added 1.6M n-butyl lithium hexane solution (2.9 ml) at 0° C. for 30 minutes. To the reaction mixture cooled to 0° C. was added 5,11-dihydro-7-methoxypyrido[2,3-c][1]benzoxepin-5-one (1.0 g) dropwise as THF solution (5 ml), and the mixture was warmed to room temperature, and stirred for 3 hours. Aqueous ammonium chloride and ethyl acetate were added to the reaction mixture, the organic layer was separated and washed with saturated aqueous sodium chloride, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexane (1:4) to give 5,11-dihydro-7-methoxy-5-methylenepyrido[2,3-c][1]benzoxepine (0.14 g).

reactant | n-butyl lithium hexane | 1.6M, 2.9 ml | CCCCCC.C(CCC)[Li]
reactant | 5,11-dihydro-7-methoxypyrido[2,3-c][1]benzoxepin-5-one | 1.0 g | COC=1C=CC2=C(C(C3=C(CO2)N=CC=C3)=O)C1 | C14H11NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | methyltriphenylphosphonium bromide | 2.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5,11-dihydro-7-methoxy-5-methylenepyrido[2,3-c][1]benzoxepine | 0.14 g | COC=1C=CC2=C(C(C3=C(CO2)N=CC=C3)=C)C1 | C15H13NO2
